US07514419B2
A mixture of 2,4-dimethyl-6-hydroxy-3-(4′-methoxymethoxy-3′-iso-propylbenzyl)benzyl alcohol ((0.20 g, 0.58 mmol) and Pd—C (0.08 g, 10%) in ethyl acetate-acetic acid (3.5 mL, 95:5) was stirred at room temperature under a H2 atmosphere for 6 h. The reaction mixture was filtered through a Celite plug and the solvent was removed under reduced pressure to afford 4-(4′-methoxymethoxy-3′-iso-propylbenzyl)-2,3,5-trimethylphenol (0.19 g, 100%) as colorless oil: 1H NMR (300 MHz, CD3OD): δ 6.94 (m, 1H), 6.91 (d, J=13.2 Hz, 1 H), 6.68 (dd, J=13.2, 2.4 Hz, 1 H), 6.55 (s, 1 H), 5.17 (s, 2 H), 3.95 (s, 2 H), 3.47 (s, 3 H), 3.30 (m, 1 H), 2.19 (s, 3 H), 2.16 (s, 3 H), 2.11 (s, 3 H), 1.17 (d, J=10.8 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=acetone-hexanes (3:7); Rf=0.60.

reactant | 2,4-dimethyl-6-hydroxy-3-(4′-methoxymethoxy-3′-iso-propylbenzyl)benzyl alcohol | CC1=C(CO)C(=CC(=C1CC1=CC(=C(C=C1)OCOC)C(C)C)C)O | C21H28O4
solvent | ethyl acetate acetic acid | 3.5 mL | C(C)(=O)OCC.C(C)(=O)O
catalyst | Pd—C | 0.08 g | [Pd] | Pd
product | 4-(4′-methoxymethoxy-3′-iso-propylbenzyl)-2,3,5-trimethylphenol | 0.19 g, 100% | COCOC1=C(C=C(CC2=C(C(=C(C=C2C)O)C)C)C=C1)C(C)C | C21H28O3
